US04981508
Preparation of 3-[2-Methyl-3,4-dihydro-3-oxo-4-(propynyl)-2H-1,4-benzoxazin-6-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (Compound No. 1)
A slurry of 1.4 g. of sodium hydride in 25 ml. of dry tetrahydrofuran (THF) was cooled to -10° C. To the cooled and stirred slurry was added a solution of 10.0 g. of ethyl 3-amino-4,4,4-trifluoro-2-butenoate in 50 ml. of THF. The addition of this solution was made over a period of 30 minutes. The resultant light brown reaction mixture was cooled to -70° C. A solution of 13.3 g. of 6-isocyanato-2- methyl-3,4-dihydro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine in 75 ml. of THF was added to the chilled reaction mixture over a period of 10 minutes. After stirring at -70° C. for 30 minutes, the temperature was allowed to rise slowly to 10° C. At that point 3.6 ml. of acetic acid was added to the mixture. A beige solid precipitated. 19.0 Grams of the solid was recovered by filtering it from the reaction mixture.

reactant | sodium hydride | [H-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ethyl 3-amino-4,4,4-trifluoro-2-butenoate | NC(=CC(=O)OCC)C(F)(F)F | C6H8F3NO2
reactant | 6-isocyanato-2- methyl-3,4-dihydro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine | N(=C=O)C=1C=CC2=C(N(C(C(O2)C)=O)CC#C)C1 | C13H10N2O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[2-Methyl-3,4-dihydro-3-oxo-4-(propynyl)-2H-1,4-benzoxazin-6-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | CC1OC2=C(N(C1=O)C#CC)C=C(C=C2)N2C(NC(=CC2=O)C(F)(F)F)=O | C17H12F3N3O4
